US09403810B2
Step 1: (E)-Tributyl(3,3-dimethylbut-1-en-1-yl)stannane
Tributyltin hydride (1.637 mL, 6.09 mmol) was added dropwise to a solution of 3,3-dimethylbut-1-yne (500 mg, 6.09 mmol) and Pd(Ph3P)4 (70 mg, 0.06 mmol) in THF (4 mL) at 0° C. in the dark. After 30 minutes of stirring the reaction mixture was warmed to room temperature and was stirred for 16 hours. The solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 100% iso-hexane afforded the title compound.

reactant | Tributyltin hydride | 6.09 mmol, 1.637 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 3,3-dimethylbut-1-yne | 6.09 mmol, 500 mg | CC(C#C)(C)C | C6H10
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | Pd(Ph3P)4 | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-Tributyl(3,3-dimethylbut-1-en-1-yl)stannane | C(CCC)[Sn](\C=C\C(C)(C)C)(CCCC)CCCC | InChI=1S/C6H11.3C4H9.Sn/c1-5-6(2,3)4;3*1-3-4-2;/h1,5H,2-4H3;3*1,3-4H2,2H3;
